US06706757B2
Preparation of Ethyl 7-(Formylamino)chroman-2-carboxylate
Mixed anhydride is prepared by stirring 1.25 equivalents of formic acid and 1 equivalent of acetic anhydride at 60° C. for 2 h. A solution of ethyl 7-amino-2-chromancarboxylate (1.25 g; 5.6 mmol) in THF is treated with triethylamine (0.78 mL; 5.6 mmol) and the previously prepared mixed anhydride (1.6 mL), stirred at ambient temperature for 1 h, poured into a saturated aqueous solution of sodium bicarbonate and extracted with ethyl ether. The combined extracts are washed with brine, dried over MgSO4 and concentrated in vacuo to afford the title compound as a straw colored oil (1.4 g; 100%), identified by NMR spectral analysis.

reactant | formic acid | 1.25 equivalents | C(=O)O | CH2O2
reactant | acetic anhydride | 1 equivalent | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 7-amino-2-chromancarboxylate | 5.6 mmol, 1.25 g | NC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H15NO3
reactant | triethylamine | 5.6 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 7-(Formylamino)chroman-2-carboxylate | 1.4 g, 100% | C(=O)NC1=CC=C2CCC(OC2=C1)C(=O)OCC | C13H15NO4
